US08791130B2
4-Amino-3-methoxy-N-methylbenzamide was prepared by the procedure described in Example 7 using 4-amino-3-methoxybenzoic acid and methylamine hydrochloride.

reactant | 4-amino-3-methoxybenzoic acid | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | methylamine hydrochloride | Cl.CN
product | 4-Amino-3-methoxy-N-methylbenzamide | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
